US08957069B2
1-(4-Chlorophenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (274 mg, 1.00 mmol) synthesized in Reference example 61 and 1-bromo-4-chlorobenzene (287 mg, 1.50 mmol), the reaction was carried out in the same manner as Example 23 to obtain the title compound 100 mg (yield 26%).

reactant | 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 1.00 mmol, 274 mg | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C)C | C17H26N2O
reactant | 1-bromo-4-chlorobenzene | 1.50 mmol, 287 mg | BrC1=CC=C(C=C1)Cl | C6H4BrCl
product | 1-(4-Chlorophenyl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 100 mg, yield 26% | ClC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C23H29ClN2O
